US06989402B1
3,5-Dichloro-4-(4-hydroxy-3-isopropylphenoxy)benzyltetrazole
A reaction mixture of 3,5-dichloro-4-(4-methoxy-3-isopropylphenoxy)-benzyltetrazole (60 mg), BF3.Me2S (0.5 ml) and CH2Cl2 (6 ml) was stirred at room temperature over night. The yield after purification was quantitative.

reactant | 3,5-dichloro-4-(4-methoxy-3-isopropylphenoxy)-benzyltetrazole | 60 mg | ClC=1C=C(CC2=NN=NN2)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl | C18H18Cl2N4O2
reactant | BF3 | B(F)(F)F | BF3
reactant | Me2S | 0.5 ml | S(C)C | C2H6S
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | 3,5-Dichloro-4-(4-hydroxy-3-isopropylphenoxy)benzyltetrazole | ClC=1C=C(CC2=NN=NN2)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Cl | C17H16Cl2N4O2
